US05587504
Synthesis of Methyl 2-(4'-p-toluene-sulfonyloxymethylphenyl)benzoate
10.0 g (41 mmol) of methyl 2-(4'-hydroxymethylphenyl)benzoate was dissolved in tetrahydrofuran (200 ml). 2.0 g (50 mmol) of a 60% sodium hydrode was added thereto under cooling with ice, followed by stirring for one hour. A solution of 8.65 g (45.4 mmol) of p-toluenesulfonyl chloride in tetrahydrofuran (50 ml) was dropwise added thereto. Then, the reaction was effected at room temperature for 2 hours and further reflux by heating was effected for 4 hours. The reaction liquid was cooled and added to a saturated aqueous solution of ammonium chloride. The resulting mixture was extracted with chloroform (200 ml). After the organic phase was washed with water and dried, it was subjected to vacuum concentration. The residue was purified by silica gel column chromatography (a n-hexane/ethyl acetate system) to give 13.4 g of the title compound as a was (yield 82%).

reactant | methyl 2-(4'-hydroxymethylphenyl)benzoate | 41 mmol, 10.0 g | OCC1=CC=C(C=C1)C1=C(C(=O)OC)C=CC=C1 | C15H14O3
reactant | sodium | [Na] | Na
reactant | p-toluenesulfonyl chloride | 45.4 mmol, 8.65 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | Methyl 2-(4'-p-toluene-sulfonyloxymethylphenyl)benzoate | 13.4 g, yield 82% | C1(=CC=C(C=C1)S(=O)(=O)OCC1=CC=C(C=C1)C1=C(C(=O)OC)C=CC=C1)C | C22H20O5S
